US04070392
134 g of dimeric p-isopropenyl phenol are dissolved under nitrogen in 150 g of acetic acid anhydride, followed by the addition of 0.5 g of concentrated sulphuric acid. The reaction begins with a slight heat effect under which the temperature of the reaction mixture rises to around 50° C and then falls again. When the reaction temperature has fallen to around 30° C, the reaction mixture is slowly heated until, finally, acetic acid distils off under normal pressure. The temperature is regulated in such a way that distillation is continuous. When no more acetic acid distils over, the remaining acetic acid and the excess acetic acid anhydride are distilled off in a water jet vacuum, after which the reaction mixture is cooled. Another 5 g of concentrated sulphuric acid are then added, followed by heating in a high vacuum until p-acetoxy-α-methyl styrene distils off. The temperature of the reaction mixture is regulated in such a way that the reaction mixture distils off continuously; it is in the range from 70° to 120° C and is ultimately increased to 200° C. The reaction product which has distilled over is then redistilled; 119 g (68% of the theoretical) of p-acetoxy-α-methyl styrene are obtained in the boiling range from 80° to 82° C/0.1 Torr.

reactant | p-isopropenyl phenol | 134 g | C(=C)(C)C1=CC=C(C=C1)O | C9H10O
reactant | sulphuric acid | 0.5 g | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic acid anhydride | 150 g | C(C)(=O)OC(C)=O | C4H6O3
product | p-acetoxy-α-methyl styrene | C(C)(=O)OC1=CC=C(C(=C)C)C=C1 | C11H12O2
